US07754737B2
tert-butyl (2S)-3-cyclohexyl-2-(2-(3-((2-fluorophenyl)(3-methoxypropoxy)methyl)piperidin-1-yl)-3,4-dioxocyclobut-1-enylamino)propylcarbamate (17.4 mg, 0.03 mmol) was treated with neat TFA for 30 min. TFA was removed in vacuo, and the residue was purified by HPLC to give 3-((S)-1-amino-3-cyclohexylpropan-2-ylamino)-4-(3-((2-fluorophenyl)(3-methoxypropoxy)methyl)piperidin-1-yl)cyclobut-3-ene-1,2-dione (8.7 mg, 60%) as a TFA salt. 1H NMR (CD3OD) δ 0.8-2.1 (20H), 3.0 (1H), 3.1 (1H), 3.25 (s, 3H), 3.3 (m, 6H), 3.5 (2H), 4.45 (d, 1H), 4.63 (m, 1H), 7.15 (1H), 7.21 (1H), 7.35 (1H), 7.40 (1H). MS ESI+ve m/z 516 (M+1).

reactant | tert-butyl (2S)-3-cyclohexyl-2-(2-(3-((2-fluorophenyl)(3-methoxypropoxy)methyl)piperidin-1-yl)-3,4-dioxocyclobut-1-enylamino)propylcarbamate | 0.03 mmol, 17.4 mg | C1(CCCCC1)C[C@@H](CNC(OC(C)(C)C)=O)NC1=C(C(C1=O)=O)N1CC(CCC1)C(OCCCOC)C1=C(C=CC=C1)F | C34H50FN3O6
reactant | TFA | C(=O)(C(F)(F)F)O | C2HF3O2
product | 3-((S)-1-amino-3-cyclohexylpropan-2-ylamino)-4-(3-((2-fluorophenyl)(3-methoxypropoxy)methyl)piperidin-1-yl)cyclobut-3-ene-1,2-dione | 8.7 mg, 60% | NC[C@H](CC1CCCCC1)NC=1C(C(C1N1CC(CCC1)C(OCCCOC)C1=C(C=CC=C1)F)=O)=O | C29H42FN3O4
